US06114549
To a solution of (+) Methyl (1S, 2R, 3S)-3-(2-carbomethoxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (49.2 g) in isopropanol (1000 mL) and water (48 mL) was added a 50% aqueous solution of sodium hydroxide (179.4 g). The mixture was stirred under nitrogen for 16 hours then concentrated to approximately 200 mL. Water (400 mL) was added and the solution was extracted with t-butyl methyl ether (300 mL). The aqueous layer was acidified with dilute HCl and extracted twice with 300 mL portions of TBME. The organic layer was washed 4 times with water (4×200 mL), then concentrated under reduced pressure. Absolute ethanol was added (400 mL) and the solution was further concentrated to approximately 150 mL. The solution was diluted to 800 mL with absolute ethanol and 60 mL of water. The solution was titrated to pH=11-12 with 1.25 N sodium hydroxide solution then after stirring for 15 minutes, concentrated to an oil. Absolute ethanol (250 mL) was added and the solution reconcentrated to a solid which was triturated with hexane, and filtered. The solid was dried to a constant weight to afford (+) (1S, 2R, 3S)-3-(2-carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid disodium salt.

reactant | (+) Methyl (1S, 2R, 3S)-3-(2-carbomethoxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 49.2 g | C(=O)(OC)COC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC | C31H32O9
reactant | sodium hydroxide | 179.4 g | [OH-].[Na+]
solvent | isopropanol | 1000 mL | C(C)(C)O | C3H8O
solvent | water | 48 mL | O | H2O
product | (+) (1S, 2R, 3S)-3-(2-carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid disodium salt | [Na+].[Na+].C(=O)(O)COC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)[O-].C(=O)(O)COC2=C(C=CC(=C2)OC)[C@H]2[C@@H]([C@H](C1=CC=C(C=C21)OCCC)C2=CC1=C(C=C2)OCO1)C(=O)[O-] | InChI=1S/2C29H28O9.2Na/c2*1-3-10-35-18-6-7-19-21(12-18)27(20-8-5-17(34-2)13-23(20)36-14-25(30)31)28(29(32)33)26(19)16-4-9-22-24(11-16)38-15-37-22;;/h2*4-9,11-13,26-28H,3,10,14-15H2,1-2H3,(H,30,31)(H,32,33);;/q;;2*+1/p-2/t2*26-,27+,28+;;/m00../s1
